US08378118B2
Step-II: Preparation of 7-methoxyindan-4-ol
To the clear solution of 4,7-Dimethoxyindane (22.5 gm, 0.126 mole) in Methylene chloride (400 ml), added Boron tribromide (12.27 ml, 0.13 mole) at 0° C. After 2 hours stirring at 0-10° C., water (100 ml) was added and then the reaction mixture was extracted with Methylene chloride. The Methylene chloride layer was dried over Sodium sulphate and distilled off to give a crude mass which was purified by column chromatography using 7% Ethyl acetate in Hexane (9.0 gm).

reactant | 4,7-Dimethoxyindane | 0.126 mole, 22.5 gm | COC1=C2CCCC2=C(C=C1)OC | C11H14O2
reactant | Boron tribromide | 0.13 mole, 12.27 ml | B(Br)(Br)Br | BBr3
reactant | water | 100 ml | O | H2O
solvent | Methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 7-methoxyindan-4-ol | COC1=CC=C(C=2CCCC12)O | C10H12O2
